US05413734
A suspension of 2.68 g of 4-[trans-4-(1E-propenyl)cyclohexyl]benzoic acid, 1.8 g of 4-cyano-3-fluorophenol and 187 mg of 4-(dimethylamino)pyridine in 25 ml of methylene chloride was cooled to 0° C. and treated while stirring with 3.17 g of N,N'-dicyclohexylcarbodiimide. After stirring at 0° C. for 5 minutes and at room temperature for 3 hours the suspension was filtered and the filtrate was concentrated. Chromatographic purification of the residue on 50 g of basic aluminium oxide with methylene chloride and subsequent crystallization from hexane/ethyl acetate gave 2.67 g of 4-cyano-3-fluorophenyl 4-[trans-4-(1E-propenyl)cyclohexyl]benzoate as colourless crystals; m.p. (C-N) 117.5° C., cl.p. (N--I) 233.1° C.

reactant | 4-[trans-4-(1E-propenyl)cyclohexyl]benzoic acid | 2.68 g | C(=C\C)/[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1 | C16H20O2
reactant | 4-cyano-3-fluorophenol | 1.8 g | C(#N)C1=C(C=C(C=C1)O)F | C7H4FNO
reactant | N,N'-dicyclohexylcarbodiimide | 3.17 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-(dimethylamino)pyridine | 187 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-cyano-3-fluorophenyl 4-[trans-4-(1E-propenyl)cyclohexyl]benzoate | 2.67 g | C(=C\C)/[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OC2=CC(=C(C=C2)C#N)F)C=C1 | C23H22FNO2
